US08629137B2
Step 6: 3-(1-benzyl-piperidin-4-yl)-9-fluoro-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
11.0 g (65.8 mmol) CDI were added to 13.1 g (40.0 mmol) [2-(2-amino-3-fluoro-phenyl)-ethyl]-(1-benzyl-piperidin-4-yl)-amine in 120 mL DMF. The mixture was heated to 100° C. and stirred for 1 h. After the reaction mixture had cooled to RT it was poured onto 300 mL ice water. The aqueous phase was extracted several times with DCM, the organic phases were combined, dried on magnesium sulphate, filtered and evaporated down i. vac. The residue was purified by flash chromatography. The fractions containing the product were combined and evaporated down.

reactant | CDI | 65.8 mmol, 11.0 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | [2-(2-amino-3-fluoro-phenyl)-ethyl]-(1-benzyl-piperidin-4-yl)-amine | 40.0 mmol, 13.1 g | NC1=C(C=CC=C1F)CCNC1CCN(CC1)CC1=CC=CC=C1 | C20H26FN3
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
product | 3-(1-benzyl-piperidin-4-yl)-9-fluoro-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2F)=O | C21H24FN3O
